* power_mon.cir — SPICE subckt for the 2x INA3221 rail telemetry block.
*
* CARRIER-LOCAL: unlike the project-agnostic subsystems/<name>/ library, this
* subsystem wires the carrier's REAL net names, so the subckt pins are those
* carrier nets (the four monitored rails split at their shunts, the always-on SC
* supply + ground), not an abstract interface. The INA3221s are digital I2C
* monitor ICs with no useful analog small-signal behaviour; this subckt captures
* the PASSIVE network whose elements span TWO carrier external nets — the four
* SERIES SENSE SHUNTS (RS1..RS4) and the per-IC supply decoupling — which is what
* the local test and any board-level .op reason about. The CRITICAL-alert pull-up
* terminates on the PMON_ALERT_N PORT (an internal/abstract status node here) and
* so is NOT a subckt element; it is documented below for completeness.
*
* Values mirror devkit_mini/subsystems/power_mon/power_mon.py one-for-one (parse_si
* compatible); test_cir_shunts_match_netlist / test_cir_caps_match_netlist
* enforce equality against the external-spanning netlist passives:
*   RS1 10mR  +VIN sense shunt        (+VIN     -> +VIN_SYS)
*   RS2 10mR  +5V  sense shunt        (+5V_REG  -> +5V)
*   RS3 10mR  +3V3 sense shunt        (+3V3_REG -> +3V3)
*   RS4 20mR  +1V8 sense shunt        (+1V8_REG -> +1V8)
*   C1  100n  U1 supply bypass        (+3V3_SC  -> GND)
*   C2  100n  U2 supply bypass        (+3V3_SC  -> GND)
*   C3  10u   bulk supply decoupling  (+3V3_SC  -> GND)
*
* The remaining passive terminates on an internal PORT node and is NOT a subckt
* element — documented here for completeness:
*   R1  10k   PMON_ALERT_N defined-high pull-up (+3V3_SC -> PMON_ALERT_N, the
*             wire-OR CRITICAL alert to the bringup expander)
*
* Pin order: the four monitored rails (each as reg/source-side + board/load-side
* pair, the order power_mon.py declares them), then the always-on SC supply, then
* GND last by convention:
*   +VIN +VIN_SYS +5V_REG +5V +3V3_REG +3V3 +1V8_REG +1V8 +3V3_SC GND

.subckt power_mon +VIN +VIN_SYS +5V_REG +5V +3V3_REG +3V3 +1V8_REG +1V8 +3V3_SC GND

* series sense shunts (research dossier table 1): 10 mR on the 3 A nets, 20 mR
* on the 600 mA +1V8. Each splits its rail so the channel reads its own loads.
RS1 +VIN     +VIN_SYS 10mR
RS2 +5V_REG  +5V      10mR
RS3 +3V3_REG +3V3     10mR
RS4 +1V8_REG +1V8     20mR

* per-IC supply decoupling + bulk on the always-on +3V3_SC rail
C1 +3V3_SC GND 100n
C2 +3V3_SC GND 100n
C3 +3V3_SC GND 10u

.ends power_mon

* Standalone smoke harness (ngspice -b runs it; harmless under any board use):
* a 1 V source through 1k onto +3V3_SC settles to 1 V at DC across the bypass.
.subckt _src P
V1 vin 0 1
R1 vin P 1k
.ends _src
.end
